Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13],6.2383542297800005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],7.702758129039999
[H:1][O:2][C:3][O:4][H:5]>>[H:1].[O:2]=[C:3][O:4][H:5],2.54853270509
[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7],5.19239250513
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.12014651176
[C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.50596317988
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.86113040783
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],4.9592262131
[O:1].[O:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.690741992391
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[C:6]([H:7])([H:8])=[C:9][H:10].[O:1][O:2][C:3]([H:4])[H:5],0.164837866312
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.1474621539399998
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2],3.12668546194
[H:16].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.89314006273
[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:4]([H:5])[C:10]([H:11])([H:12])[C:13](=[C:2]=[C:3]([C:6]([H:7])([H:8])[H:9])[H:15])[H:14],0.6700135074600001
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],3.69629872645
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],0.67346544588
[H:1][O:2][C:3]([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-1.25961256293
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-2.14090171445
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15],-2.8816731301800003
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.94281165834
[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],-4.31695401445
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8].[H:4],1.7036007192700002
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4]([H:5])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]#[C:6][H:7],2.5638820840400003
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8]>>[C:4]([O:5][H:6])[O:7][H:8].[H:1][C:2]#[C:3],4.04185151136
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]#[C:3][H:4],1.50479605965
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C@:4]([H:5])([O:6])[C:11]([H:12])([H:13])[H:14],3.41013282847
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],1.97880235966
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.8842654906
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],4.24118586147
